reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[O:5]/[C:6]1=[N:7]\[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],65.76219370649277
[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:17]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],43.724817458521805
[C:1]([O:2][C:3](=[O:4])[H:8])([H:5])([H:6])[H:7]>>[C-:3]#[O+:4].[C:1]([O:2][H:8])([H:5])([H:6])[H:7],70.4191497850931
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:5](\[O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([C:6]([H:16])([H:17])[H:18])[H:14],117.52752693205
[C:1]([C:2]([C:3]([O:6]/[C:5](=[N:4]/[H:15])[C:7]([H:16])([H:17])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],54.8098231993081
[O:1]([C@@:2]([C:3]([H:9])([H:10])[H:11])([C-:4]=[C:5]=[C+:6][H:12])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],11.1824318000766
[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])/[C:4]([O:5][H:9])=[N:6]\[H:10])([H:7])[H:8],49.473507625377295
[N+:1]1([H:7])([H:8])[C:2](=[N:6][C:5](=[N:4][H:9])[H:10])[N-:3]1>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],7.308283264348191
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]=[C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:15])([H:16])([H:17])[H:18],80.69506923109459
[C:1]([C:2]([C:3]([C-:5]=[N+:6]=[C:4]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],56.3393602232338
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[O:5][C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:4]([H:13])[H:14],102.101475458447
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([N:2]([H:10])[H:11])([H:7])([H:8])[H:9],78.3381955932314
[C:1]([C@@:2]1([H:11])[C:3]([H:13])([H:14])[C@@:6]([O:7][H:12])([H:18])[N:4]1[C:5]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],65.8932146271256
[N:1]([C:2]#[C:4][C:5](=[O:3])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],64.59764973529839
[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6]([H:16])([H:17])[H:18])(=[C:7]([H:19])[H:20])[H:21]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10],89.9910657654089
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5][O:6][H:12])[H:10])([H:8])[H:9])[H:7],80.4739311118944
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C-:2]=[O+:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8],103.770297459275
[C:1]1([H:9])([H:10])[C@:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C@:6]1([O:7][H:8])[H:13]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],60.473551336760394
[C:1]([C-:2]([N+:3]1=[C:7]([H:15])[N:6]=[C:5]([H:14])[C:4]1([H:11])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],47.6402288366467
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:6]([O:7][H:15])([H:13])[H:14])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10],88.7384800745495
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:4]=[C:5]([O:3][H:10])[H:11])[H:9])([H:6])([H:7])[H:8],66.4580593017163
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([N+:6]#[C-:5])([H:9])[H:10])[H:8])\[H:7],57.355043327836796
[C:1]([C@@:2]1([H:11])[O:3][C@@:6]([O:7][H:12])([H:15])[C@@:4]1([O:5][H:14])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],37.769486857272796
[C-:1]([O+:2]=[C:3]([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])[H:10].[C:4]([H:9])([H:12])([H:13])[H:14]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],20.483615956746206
